US04820834
(R)-N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-N'-(4-methylphenyl)-urea
Equimolar amounts of 3(R)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and 4-methylPhenylisocyanate were mixed in 8 ml of dry tetrahydrofuran at room temperature. The reaction mixture was allowed to stand for 8 hours and was then filtered. The collected solids were washed with tetrahydrofuran and dried in vacuo over P2O5 to give the analytical product: m.p. 233°-235° C.

reactant | 3(R)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | 4-methylPhenylisocyanate | CC1=CC=C(C=C1)N=C=O | C8H7NO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (R)-N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-N'-(4-methylphenyl)-urea | CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)NC2=CC=C(C=C2)C)=O | C24H22N4O2
